US07816522B2
(128b) 4-({[3-ethoxy-4-(2-methoxyethoxy)phenyl]-[1-(3-methyl-pyridin-2-yl)-5-oxo-4,5-dihydro-1H-[1,2,4]triazol-3-yl]methyl}amino)benzamidine acetate
The same procedure was carried out as in Examples (21i)-(21j), except that {2-(3-ethoxy-4-(2-methoxyethoxy)phenyl]-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester and (3-methylpyridin-2-yl)hydrazine were used instead of respectively the {2-(8-methoxy-4H-benzo[1,3]dioxin-6-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester in Example (21i) and 2-hydrazinopyrimidine in Example (21i), to give the title compound.

reactant | {2-(3-ethoxy-4-(2-methoxyethoxy)phenyl]-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=CC(=C(C=C1)OCCOC)OCC)SC)=O | C25H28N4O6S
reactant | (3-methylpyridin-2-yl)hydrazine | CC=1C(=NC=CC1)NN | C6H9N3
reactant | {2-(8-methoxy-4H-benzo[1,3]dioxin-6-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C=1C=C(C2=C(COCO2)C1)OC)SC)=O | C23H22N4O6S
reactant | 2-hydrazinopyrimidine | N(N)C1=NC=CC=N1 | C4H6N4
product | 4-({[3-ethoxy-4-(2-methoxyethoxy)phenyl]-[1-(3-methyl-pyridin-2-yl)-5-oxo-4,5-dihydro-1H-[1,2,4]triazol-3-yl]methyl}amino)benzamidine acetate | C(C)(=O)O.C(C)OC=1C=C(C=CC1OCCOC)C(C1=NN(C(N1)=O)C1=NC=CC=C1C)NC1=CC=C(C(=N)N)C=C1 | InChI=1S/C27H31N7O4.C2H4O2/c1-4-37-22-16-19(9-12-21(22)38-15-14-36-3)23(31-20-10-7-18(8-11-20)24(28)29)25-32-27(35)34(33-25)26-17(2)6-5-13-30-26;1-2(3)4/h5-13,16,23,31H,4,14-15H2,1-3H3,(H3,28,29)(H,32,33,35);1H3,(H,3,4)
